US06962933B1
4-(methylthio)thiobenzamide
4-Methylthiobenzonitrile (12 g) was dissolved in a solution (130 mL) of 4N hydrogen chloride in ethyl acetate. To this solution was added O,O-diethyl dithiophosphate (15 mL) and the mixture was stirred at room temperature for 22 h. To the reaction mixture was added water (100 mL), and the mixture was extracted with ethyl acetate. The insoluble material was filtered off and the filtrate was washed with saturated brine, dried and the solvent was evaporated. The residue was recrystallized from ethyl acetate to give the title compound (10 g, yield 67%).

reactant | 4-Methylthiobenzonitrile | 12 g | CSC1=CC=C(C#N)C=C1 | C8H7NS
reactant | O,O-diethyl dithiophosphate | 15 mL | P(=S)(OCC)(OCC)[S-]
reactant | water | 100 mL | O | H2O
solvent | hydrogen chloride | 4N, 130 mL | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(methylthio)thiobenzamide | 10 g, yield 67% | CSC1=CC=C(C(=S)N)C=C1 | C8H9NS2
